US04232010
To a solution of 45 g (0.2 mol) of 4-(benzothiazol-2-yl) toluene in 1000 ml of dry carbon tetrachloride were added 35.6 g (0.2 mol) of N-bromosuccinimide and a catalytic amount of benzoyl peroxide. The mixture was refluxed for 12 hours, and then allowed to cool down to room temperature. The precipitated succinimide was filtered off and the filtrate evaporated to dryness in vacuo, whereupon 55 g of crude crystals were obtained. Recrystallization from 1500 ml of cyclohexane gave 41 g of purified 4-(benzothiazol-2-yl) bromomethylbenzene as colorless flakes.

reactant | 4-(benzothiazol-2-yl) toluene | 0.2 mol, 45 g | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)C | C14H11NS
reactant | N-bromosuccinimide | 0.2 mol, 35.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 1000 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(benzothiazol-2-yl) bromomethylbenzene | 41 g | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)CBr | C14H10BrNS
